US05001125
A mixture of 5 parts of 1-(3-methylphenyl)piperazine dihydrochloride, 10.6 parts of sodium carbonate and 180 parts of N,N-dimethylformamide was stirred for 1 hour at 65° C. Then there were added 7.2 parts of 3,6-dibromopyridazine and the whole was stirred overnight at about 65° C. The reaction mixture was poured into ice water. The product was filtered off and dissolved in dichloromethane. The solution was washed twice with water, dried, filtered and evaporated. The residue was crystallized from ethanol. The product was filtered off and dried, yielding 4.1 parts (61.5%) of 3-bromo-6-[4-(3-methylphenyl)-1-piperazinyl]pyridazine; mp. 145.7° C. (compound 136).

reactant | 1-(3-methylphenyl)piperazine dihydrochloride | Cl.Cl.CC=1C=C(C=CC1)N1CCNCC1
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | 3,6-dibromopyridazine | BrC=1N=NC(=CC1)Br | C4H2Br2N2
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 3-bromo-6-[4-(3-methylphenyl)-1-piperazinyl]pyridazine | 61.5% | BrC=1N=NC(=CC1)N1CCN(CC1)C1=CC(=CC=C1)C | C15H17BrN4
